US08754075B2
4-Chloro-1-(2,2-difluoro-ethyl)-1H-pyrazole-3-carboxylic acid [3-((4R,5R)-2-amino-5-fluoro-4,5-dimethyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]amide
The condensation of (4R,5R)-4-(5-amino-2-fluoro-phenyl)-5-fluoro-4,5-dimethyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine (A8.3) and 4-chloro-1-(2,2-difluoro-ethyl)-1H-pyrazole-3-carboxylic acid (CAS 1006486-42-5) following procedure I yielded the title compound as a white solid. MS (ISP): m/z=448.2 [M+H]+.

reactant | (4R,5R)-4-(5-amino-2-fluoro-phenyl)-5-fluoro-4,5-dimethyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine | NC=1C=CC(=C(C1)[C@]1(N=C(OC[C@]1(C)F)N)C)F | C12H15F2N3O
reactant | 4-chloro-1-(2,2-difluoro-ethyl)-1H-pyrazole-3-carboxylic acid | ClC=1C(=NN(C1)CC(F)F)C(=O)O | C6H5ClF2N2O2
product | 4-Chloro-1-(2,2-difluoro-ethyl)-1H-pyrazole-3-carboxylic acid [3-((4R,5R)-2-amino-5-fluoro-4,5-dimethyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]amide | NC=1OC[C@]([C@@](N1)(C)C=1C=C(C=CC1F)NC(=O)C1=NN(C=C1Cl)CC(F)F)(C)F | C18H18ClF4N5O2
